US06391866B1
1.5. [1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinic acid
To a solution of 1.7 g (15.6 mmol) of 1-aminoethyl phosphinic acid in 35 ml of a mixture of dioxane and water, in the presence of an equivalent of soda (624 mg), there is added, 0° C., dropwise and simultaneously, a solution of 3.1 g (18.3 mmol) of benzyl chloroformate in 9 ml of dioxane and, so as to maintain the pH of the reaction about 9, a solution of 1 g of soda in 8.7 ml of water. At the end of the addition, the mixture is maintained at a temperature about 20° C. for 2 hours. The aqueous phase is then washed 3 times with 20 ml of diethyl ether. The aqueous phase is acidified, at 0° C., with brisk agitation, with 11 ml of a 6N hydrochloric acid solution. An abundant white precipitate forms, which is filtered, washed with water and dried. There is recovered 2.8 g of product (yield=73.9%).

reactant | 1-aminoethyl phosphinic acid | 15.6 mmol, 1.7 g | NC(C)P(O)=O | C2H8NO2P
reactant | benzyl chloroformate | 18.3 mmol, 3.1 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dioxane | 9 ml | O1CCOCC1 | C4H8O2
solvent | water | 8.7 ml | O | H2O
product | [1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinic acid | 2.8 g, yield=73.9% | C1(=CC=CC=C1)COC(=O)NC(C)P(O)=O | C10H14NO4P
